US05254595
Following the procedure of Example 27, but starting from 6-(2,3-epoxypropoxy)-1-hydroxyxanthen-9-one (2.84 g), prepared as described in U.S. Pat. No. 3,912,733, and 2-aminotetralin (1.49 g) in absolute ethanol (40 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-hydroxy-9-oxoxanth-6-yloxy)propanamine hydrochloride is obtained ((i): R=H, Ar=radical 1, wherein Z is H, and the chain is attached to position 2 of the tetralin moiety).

reactant | 6-(2,3-epoxypropoxy)-1-hydroxyxanthen-9-one | 2.84 g | O1C(COC=2C=C3OC=4C=CC=C(C4C(C3=CC2)=O)O)C1 | C16H12O5
reactant | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-hydroxy-9-oxoxanth-6-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC=1C=C2OC=3C=CC=C(C3C(C2=CC1)=O)O)O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-aminotetralin | 1.49 g | NC1CC2=CC=CC=C2CC1 | C10H13N
